US09212187B2
Synthesis of 1-methyl-6-{2-[N-(pyridin-3-ylmethyl)amino]ethoxy}-1H-quinolin-2-one
3-Pyridine carbaldehyde(0.99 ml) and 6-(2-Aminoethoxy)-1-methyl-1H-quinolin-2-one(2.18 g) were added to methanol (50 ml). The mixture was stirred at room temperature for 7 hours. The mixture was cooled to 0° C., and sodium borohydride(0.757 g) was added thereto. The mixture was further stirred at room temperature overnight. Water was added to the reaction mixture and methanol was distilled off under reduced pressure. The residue was subjected to extraction using dichloromethane. The organic layer was washed with saturated saline, dried with anhydrous sodium sulfate, and was condensed under reduced pressure. The residue was purified by basic silica gel column chromatography (ethyl acetate). The purified product was condensed under reduced pressure to give the title compound(3.063 g) as a yellow oil.

reactant | 3-Pyridine carbaldehyde | 0.99 ml | N1=CC(=CC=C1)C=O | C6H5NO
reactant | 6-(2-Aminoethoxy)-1-methyl-1H-quinolin-2-one | 2.18 g | NCCOC=1C=C2C=CC(N(C2=CC1)C)=O | C12H14N2O2
reactant | sodium borohydride | 0.757 g | [BH4-].[Na+]
solvent | methanol | CO | CH4O
solvent | Water | O | H2O
solvent | methanol | 50 ml | CO | CH4O
product | 1-methyl-6-{2-[N-(pyridin-3-ylmethyl)amino]ethoxy}-1H-quinolin-2-one | 3.063 g | CN1C(C=CC2=CC(=CC=C12)OCCNCC=1C=NC=CC1)=O | C18H19N3O2
